US04803218
5-Amino-6-chloroindole-3-acetonitrile:
This intermediate was prepared by the sequence 6-chloroisatin, 6-chloro-5-nitroisatin, 6-chloro-5-nitroindole, 6-chloro-5-nitrogramine and 6-chloro-5-nitroindole-3-acetonitrile which was hydrogenated with 10% Pd/C until 3 equiv. of hydrogen were taken up. The catalyst was removed by filtration and the residue concentrated in vacuo to give a dark brown solid. Trituration with cold EtOH gave desired pure product.

reactant | 6-chloroisatin | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
reactant | 6-chloro-5-nitroisatin | ClC1=C(C=C2C(C(NC2=C1)=O)=O)[N+](=O)[O-] | C8H3ClN2O4
reactant | 6-chloro-5-nitroindole | ClC1=C(C=C2C=CNC2=C1)[N+](=O)[O-] | C8H5ClN2O2
reactant | 6-chloro-5-nitroindole-3-acetonitrile | ClC1=C(C=C2C(=CNC2=C1)CC#N)[N+](=O)[O-] | C10H6ClN3O2
reactant | hydrogen | 3 equiv. | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
product | 5-Amino-6-chloroindole-3-acetonitrile | NC=1C=C2C(=CNC2=CC1Cl)CC#N | C10H8ClN3
